US06881733B1
cis-1-benzyl-3-methyl-4-(5-chloro-6-fluorobenzofur-7-yl)piperidine
Beginning with 1.07 gm (2.33 mMol) 1-benzyl-3-methyl-4-(methyl oxoacetoxy)-4-(5-chloro-6-fluorobenzofur-7-yl)piperidine, this material was treated with tri(n-butyl)tin hydride essentially as described in EXAMPLE 16 to provide 0.39 gm of the desired compound.

reactant | 1-benzyl-3-methyl-4-(methyl oxoacetoxy)-4-(5-chloro-6-fluorobenzofur-7-yl)piperidine | 2.33 mMol, 1.07 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C(=CC=2C=COC21)Cl)F)OC(C(=O)C)=O)C | C24H23ClFNO4
reactant | tri(n-butyl)tin hydride | C(CCC)[SnH](CCCC)CCCC
product | cis-1-benzyl-3-methyl-4-(5-chloro-6-fluorobenzofur-7-yl)piperidine | 0.39 gm | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C1=C(C(=CC=2C=COC21)Cl)F)C | C21H21ClFNO
